US05061706
c. 4-Acetyl-5-cyano-2-nitroaniline
Ammonia was bubbled through a solution of 2-acetyl-5-methoxy-4-nitrobenzonitrile (0.80 g. 3.6 mmol) in 10 ml of dry dimethylsulfoxide with stirring at 80° C. for 45 min. Then the solution was poured into 100 ml of ice-water The product was isolated by filtration and washed with water to afford 0.71 g (95%) of the title compound. M.p. 255°-260° C.; 1H-NMR (DMSO-d6): 2.57 (s, 3H, COCH3), 7.50 (s, 1H, ArH), 8.20 (broad s, 2H, NH2), 8.65 (s, 1H, ArH).

reactant | Ammonia | N | H3N
reactant | 2-acetyl-5-methoxy-4-nitrobenzonitrile | 3.6 mmol, 0.80 g | C(C)(=O)C1=C(C#N)C=C(C(=C1)[N+](=O)[O-])OC | C10H8N2O4
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 4-Acetyl-5-cyano-2-nitroaniline | 0.71 g, 95% | C(C)(=O)C1=CC(=C(N)C=C1C#N)[N+](=O)[O-] | C9H7N3O3
